Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
MVC, unrestrained driver
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ male with past medical history of asthma, previous 
heroin use,
presents as a call back from outside hospital for questionable 
mediastinal fluid. Yesterday, patient was in a motor vehicle 
crash head on. Patient does not recall entire event, but was the 
unrestrained driver and hit his chest on the steering wheel. 
Patient does not know how fast he was driving, but states that 
he totaled his car. Patient initially presented to ___ 
___, where he got CT scans of his abdomen and chest and 
were discharged. Patient was called back after there is a 
re-read that noted bilateral pulmonary edema likely contusions, 
but also noticed some mediastinal fluid, trace pericardial 
effusion. Patient was transferred for trauma evaluation.
 
Past Medical History:
PMH:
- Asthma 
- Psychiatric

PSH:
- None
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Physical exam on Admission:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: not in respiratory distress, breathing comfortably on room 
air
ABD: Soft, non distended, nontender,  
Ext: No ___ edema, ___ warm and well perfused

PHYSICAL EXAM ON DISCHARGE:
VS: T: 97.9, BP: 117/72, HR: 77, RR: 18, O2 Sat: 96% Ra 
GEN: A&Ox3, NAD
CV: RRR
PULM: breathing comfortably on room air, IS to 1500
CHEST: mild pain to deep palpation across anterior chest wall 
and clavicles, Left more painful than right side
ABD: Soft, non-distended, non-tender, BS x 4.
Ext: PPP, No ___ Edema.
 
Pertinent Results:
CATSCAN OF ABDOMEN/PELVIS WITHOUT CONTRAST: ___
bilateral airspace opacities in the upper lobes. This 
nonspecific finding 
could represent pulmonary contusions in the setting of trauma. 
However, 
multifocal infection may have a similar appearance. Correlation 
with clinical findings and mechanism of injury is advised. 

PORTABLE CHEST XRAY: ___
Nonspecific ill-defined bilateral densities concordant with 
findings seen on the referenced CT. Findings may represent 
contusions in the setting of 
trauma. However, an underlying infectious etiology cannot be 
excluded. 
  

___ 12:30PM BLOOD WBC-9.3 RBC-4.41* Hgb-12.8* Hct-38.6* 
MCV-88 MCH-29.0 MCHC-33.2 RDW-12.7 RDWSD-40.2 Plt ___
___ 12:30PM BLOOD Neuts-45.0 ___ Monos-7.7 Eos-3.9 
Baso-0.4 Im ___ AbsNeut-4.17 AbsLymp-3.97* AbsMono-0.71 
AbsEos-0.36 AbsBaso-0.04
___ 12:30PM BLOOD ___ PTT-28.2 ___
___ 12:30PM BLOOD UreaN-6
___ 12:30PM BLOOD Lipase-7
___ 12:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:50PM BLOOD Glucose-85 Lactate-0.9 Creat-0.9 Na-140 
K-3.3* Cl-107 calHCO3-24
___ 10:11AM BLOOD Glucose-168* UreaN-8 Creat-0.8 Na-142 
K-4.0 Cl-106 HCO3-22 AnGap-14
 
Brief Hospital Course:
Patient is a ___ year old male with hx of poly substance abuse on 
suboxone that presents to the ___ Emergency Department from ___ 
___ for evaluation and management of pulmonary contusion 
s/p MVC. Per transfer report, patient was unrestrained driver 
with chest strike from steering wheel following impact at 20mph. 
At ___ he was noted on CT scan of the chest and abdomen 
to have probable bilateral pulmonary contusions and possible 
mediastinal hemorrhage. He was initially discharged with 
outpatient follow-up, but received a phone call to return for 
further examination following a re-read of his CT scan.

Upon arrival to ___, E fast was negative including no signs of 
pericardial effusion with low suspicion for an aortic injury 
given timeframe from evaluation. Patient very well-appearing, 
therefore trauma service was consulted and recommended admission 
for continuous SPO2 monitoring. On arrival to inpatient unit, he 
tolerated a regular diet without nausea or vomitting. He also 
denied fever, chills, chest pain, or shortness of breath however 
did report worse pain with deep inspiration, otherwise, pain was 
appropriately controlled.

Prior to discharge, addiction medicine was consulted for 
medication planning. Per patient report, he has a dental surgery 
scheduled for ___ which requires he not take his daily 
suboxone. It was therefore determined that he take ___ his 
suboxone dose (8mg) on ___ and ___ in addition to 
Dilaudid 6mg PO Q6H. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. He was tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient was discharged home without services and 
plans to follow up in outpatient ___ clinic with Dr. ___. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
2. Buprenorphine-Naloxone Film (8mg-2mg) 2 FILM SL DAILY 
3. ClonazePAM 1 mg PO TID anxiety 
4. Gabapentin 800 mg PO TID 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
BID 
6. Mirtazapine 15 mg PO QHS 
7. Vyvanse (lisdexamfetamine) 70 mg oral QAM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0 
2.  Cetirizine 10 mg PO DAILY  
3.  HYDROmorphone (Dilaudid) 6 mg PO Q6H:PRN Pain - Severe 
do not drink alcohol or drive while taking this medication
 
RX *hydromorphone [Dilaudid] 4 mg 1.5 tablet(s) by mouth every 
six (6) hours Disp #*15 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
Please hold for diarrhea or loose stool.  
5.  Senna 8.6 mg PO BID:PRN Constipation - Second Line 
Please hold for diarrhea or loose stool.  
6.  Buprenorphine-Naloxone Film (8mg-2mg) 2 FILM SL DAILY 
Consider prescribing naloxone at discharge  
7.  ClonazePAM 1 mg PO TID anxiety 
RX *clonazepam 1 mg 1 tablet(s) by mouth three times a day Disp 
#*4 Tablet Refills:*0 
8.  Gabapentin 800 mg PO TID  
9.  Mirtazapine 15 mg PO QHS  
10.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
BID  
11.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  
12.  Vyvanse (lisdexamfetamine) 70 mg oral QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary Contusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
following a motor vehicle collision where you were the 
unrestrained driver. You had radiology imaging done which 
revealed a pulmonary contusion. You are recovering well and are 
now ready for discharge. Please follow the instructions below to 
continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___